US07632861B2
1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)-1-vinyl-1,3-dihydroisobenzofuran.
A flask was charged with (2-(1-(3,5-bis(trifluoromethyl)benzyloxy)but-2-en-2-yl)phenyl)methanol (1.22 g, 3.0 mmol), palladium trifluoroacetate (50.2 mg, 0.15 mmol), pyridine (0.049 mL, 0.60 mmol), sodium carbonate (160 mg, 1.5 mmol), molecular sieves (3 A, 1.5 g), and toluene (16 mL). The mixture was stirred under a balloon of oxygen, and was heated at 80° C. for 3 h. The reaction was cooled to room temperature, diluted with ether, and filtered through celite. The organics were washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. To aid in separation of the aldehyde byproduct (via oxidation of the alcohol), the following procedure was used to convert it back to starting material. The crude mixture was dissolved in ethanol (6 mL) and treated with sodium borohydride (30 mg, 0.79 mmol). The mixture was stirred at room temperature for 10 min. The mixture was cooled to 0° C., quenched by addition of saturated ammonium chloride, diluted with ether, washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (2.5%-->30% EtOAc/Hex) gave 828 mg (68%) as a colorless oil. 1H-NMR (CDCl3, 300 MHz) δ 7.79 (s, 1H), 7.70 (s, 2H), 7.33 (m, 2H), 7.25 (m, 2H), 6.17 (dd, J=17.1, 10.7 Hz, 1H), 5.44 (dd, J=17.1, 1.5 Hz, 1H), 5.24 (dd, J=10.7, 1.2 Hz, 1H), 5.20 (qAB, JAB=12.2 Hz, 2H), 4.70 (qAB, JAB=13.4 Hz, 2H), 3.83 (qAB, JAB=10.4 Hz, 2H); 13C-NMR (CDCl3, 126 MHz) δ 141.4, 141.0, 139.6, 138.2, 131.7 (q, J=33.6 Hz), 128.2, 127.5, 127.2, 123.5 (q, J=273 Hz), 121.9, 121.4, 121.3, 115.0, 90.1, 76.1, 72.4, 72.0. Mass spec.: 425.12 (MNa)+.

reactant | (2-(1-(3,5-bis(trifluoromethyl)benzyloxy)but-2-en-2-yl)phenyl)methanol | 3.0 mmol, 1.22 g | FC(C=1C=C(COCC(=CC)C2=C(C=CC=C2)CO)C=C(C1)C(F)(F)F)(F)F | C20H18F6O2
reactant | pyridine | 0.60 mmol, 0.049 mL | N1=CC=CC=C1 | C5H5N
reactant | sodium carbonate | 1.5 mmol, 160 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | oxygen | O=O | O2
reactant | sodium borohydride | 0.79 mmol, 30 mg | [BH4-].[Na+]
solvent | ether | CCOCC | C4H10O
catalyst | palladium trifluoroacetate | 0.15 mmol, 50.2 mg | FC(C(=O)[O-])(F)F.[Pd+2].FC(C(=O)[O-])(F)F
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
product | 1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)-1-vinyl-1,3-dihydroisobenzofuran | FC(C=1C=C(COCC2(OCC3=CC=CC=C23)C=C)C=C(C1)C(F)(F)F)(F)F | C20H16F6O2
